US04673674
A solution of 184.3 g 2-chloro-N-cyclopropylmethyl-N-[2-(3-phenyl-1H-indol-2-yl)ethyl]acetamide in 1843 ml methylene chloride is added dropwise under vigorous stirring to a suspension of 17.9 g N-benzyltributyl-ammoniumbromide in 1843 ml methylene chloride and 921 ml 30% sodium hydroxide. The mixture is stirred for further 10 minutes and diluted with 1 l water. The organic phase is separated, washed with water, dried and evaporated to dryness. The residue is dissolved in 500 ml boiling ethanol, cooled and treated with 500 ml ether. The resulting cristalline precipitate is filtered off, washed with ethanol/ather (1:1) and then ether to give 2,3-dihydro-3-cyclopropylmethyl-11-phenyl-1H-[1,4]diazepino[1,7-a]indol-4(5H)-one, m.p. 149°-150°.

reactant | 2-chloro-N-cyclopropylmethyl-N-[2-(3-phenyl-1H-indol-2-yl)ethyl]acetamide | 184.3 g | ClCC(=O)N(CCC=1NC2=CC=CC=C2C1C1=CC=CC=C1)CC1CC1 | C22H23ClN2O
solvent | methylene chloride | 1843 ml | C(Cl)Cl | CH2Cl2
catalyst | N-benzyltributyl-ammoniumbromide | 17.9 g | [Br-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 1843 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydroxide | 921 ml | [OH-].[Na+]
solvent | water | 1 l | O | H2O
product | 2,3-dihydro-3-cyclopropylmethyl-11-phenyl-1H-[1,4]diazepino[1,7-a]indol-4(5H)-one | C1(CC1)CN1C(CN2C(=C(C=3C=CC=CC23)C2=CC=CC=C2)CC1)=O | C22H22N2O
